* RL Circuit Transient Analysis
I1 1 0 PULSE(0 1m 1m 1u 1u 10m 20m) ; input root
R1 1 0 1k                           ; output:I
L1 1 0 1mH
.tran 0 50m 0 10u                   ; Transient Analysis: 50ms
.end
