* Bassman Tone Stack
.meta include_cpp:<tuple>
.meta root:rigid
V1 P002 0 PULSE(0 1 1m 1u 1u 10m 20m 0) ; input
R4 P002 P003 56k
C1 P002 P006 0.25n ; output:V
C2 P003 P004 20n
C3 P003 P005 20n
R1p P006 P007 125k ; variable output:V
R1m P007 P004 125k ; variable output:V
R2 P004 P008 500k ; variable
R3p P008 P005 12.5k ; variable
R3m P005 0 12.5k ; variable output:V
.tran 0 50m 0 10u
.backanno
.end
