* Sallen-Key Low-Pass Filter

Vin vi 0 ; input root PULSE(-1 1 0 20m 1u 1u 20m)

* RC network
R1 vi n1 10k
R2 n1 n2 10k
C1 n2 0 100n IC=0
C2 vo n1 100n IC=0

* Op-amp
* [out, 0, pos, neg, gain]
Eop vo 0 n2 n3 1e6

* Feedback network
Rf vo n3 8k
Rg n3 0 6k

* Load
Rload vo 0 100k ; output:V

.tran 0 80m 0 20.0u
.end
